US08710074B2
(3-Bromo-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)(4-fluorophenyl)methanone (150 mg, 0.4 mmol; prepared as described above), tributyl(vinyl)tin (185 mg, 0.6 mmol) and Pd(PPh3)4 (58 mg, 0.05 mmol) were combined in toluene (12 mL) and heated at 120° C. for 1 h. The reaction mixture was cooled to RT, filtered through celite, adsorbed onto silica gel, and eluted with CH2Cl2:MeOH (9:1) to give 104 mg (82%) of (4-fluorophenyl)(3-vinyl-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone. LC-MS (M+H)=283.1.

reactant | (3-Bromo-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)(4-fluorophenyl)methanone | 0.4 mmol, 150 mg | BrC=1C=NC=2CCN(CC2C1)C(=O)C1=CC=C(C=C1)F | C15H12BrFN2O
reactant | tributyl(vinyl)tin | 0.6 mmol, 185 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-fluorophenyl)(3-vinyl-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)methanone | 104 mg, 82% | FC1=CC=C(C=C1)C(=O)N1CC=2C=C(C=NC2CC1)C=C | C17H15FN2O
